US08138345B2
Preparation of (4-Amino-2,5-dimethylphenyl)methanol
A stirred solution of dibenzyl-[4-(1,3-dioxolan-2-yl)-2,5-dimethylphenyl)amine (2.00 g, 5.35 mmol) in EtOH (14.0 mL) and EtOAc (7.00 mL) was flushed with nitrogen for 3 min and then sodium bicarbonate (0.200 g, 2.38 mmol) and palladium on activated carbon (10 wt. %, ˜50% water; 0.800 g, 0.360 mmol) were added. The reaction mixture was flushed with hydrogen gas for 3 min and then stirred under a hydrogen atmosphere (balloon) for 3 h. The mixture was then filtered through a pad of Celite and the pad washed with MeOH (10 mL). The filtrate was concentrated under reduced pressure to give the title compound, which was used without any further purification.

reactant | dibenzyl-[4-(1,3-dioxolan-2-yl)-2,5-dimethylphenyl)amine | 5.35 mmol, 2.00 g | C(C1=CC=CC=C1)N(C1=C(C=C(C(=C1)C)C1OCCO1)C)CC1=CC=CC=C1 | C25H27NO2
reactant | sodium bicarbonate | 2.38 mmol, 0.200 g | C([O-])(O)=O.[Na+]
solvent | EtOH | 14.0 mL | CCO | C2H6O
solvent | EtOAc | 7.00 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on activated carbon | 0.360 mmol, 0.800 g | [Pd] | Pd
product | (4-Amino-2,5-dimethylphenyl)methanol | NC1=CC(=C(C=C1C)CO)C | C9H13NO
